US07960369B2
methyl 3-(4-{[3-(3-methylphenoxy)benzyl]oxy}phenyl)propanoate
A solution of methyl 3-(4-hydroxyphenyl)propanoate (0.396 g, 2.20 mmol), [3-(3-methylphenoxy)phenyl]methanol (0.429 g, 2.00 mmol) and tributylphosphine (0.747 mL, 3.00 mmol) in toluene (30 mL) was stirred under ice-cooling, 1,1′-(azodicarbonyl)dipiperidine (0.757 g, 3.00 mmol) was added by small portions, the temperature was raised to room temperature and the mixture was stirred for 18 hrs. Hexane (15 mL) was added to the reaction mixture, the precipitated insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane-20% ethyl acetate/hexane) and preparative HPLC (10-95% acetonitrile/water, containing 0.1% trifluoroacetic acid) to give the title compound (0.414 g, yield 55%) as a pale-yellow oil.

reactant | methyl 3-(4-hydroxyphenyl)propanoate | 2.20 mmol, 0.396 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | [3-(3-methylphenoxy)phenyl]methanol | 2.00 mmol, 0.429 g | CC=1C=C(OC=2C=C(C=CC2)CO)C=CC1 | C14H14O2
reactant | tributylphosphine | 3.00 mmol, 0.747 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.00 mmol, 0.757 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | 15 mL | CCCCCC | C6H14
product | methyl 3-(4-{[3-(3-methylphenoxy)benzyl]oxy}phenyl)propanoate | 0.414 g, yield 55% | CC=1C=C(OC=2C=C(COC3=CC=C(C=C3)CCC(=O)OC)C=CC2)C=CC1 | C24H24O4
